US04384123
(B) (cis)-1-[(1,1-Dimethylethoxy)carbonyl]-4-(phenylmethyl)-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester
To a solution of (cis)-1-[(1,1-dimethylethoxy)carbonyl]-4-(phenylmethyl)-L-proline (3.4 g) in dry dimethylformamide (3.0 ml) is added solid potassium fluoride (1.5 g), followed by chloromethyl pivalate (2.0 g). After stirring for 16 hours at ambient temperature the mixture is diluted with water (100 ml) and extracted with ethyl acetate. The ethyl acetate solution is washed with 5% sodium bicarbonate, water, brine, and dried (MgSO4). The solvent is removed in vacuo to give an oil residue (5 g). The oil is chromatographed on silica gel (120 g) eluting with ether/hexane (1:3) to give the product (4.4 g) as an oil that solidifies on standing, melting point 60°-62° C.

reactant | (cis)-1-[(1,1-dimethylethoxy)carbonyl]-4-(phenylmethyl)-L-proline | 3.4 g | CC(C)(OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)CC1=CC=CC=C1)C | C17H23NO4
reactant | potassium fluoride | 1.5 g | [F-].[K+]
reactant | chloromethyl pivalate | 2.0 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | (cis)-1-[(1,1-Dimethylethoxy)carbonyl]-4-(phenylmethyl)-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester | 5 g | CC(C)(OC(=O)N1[C@H](C(=O)OCOC(C(C)(C)C)=O)C[C@@H](C1)CC1=CC=CC=C1)C | C23H33NO6
